US05202328
2-n-Butyl-thieno{3,2-d}pyrimidin-4(3H)-one
To a solution of 3.14 g (0.02 mol) of methyl 3-amino-thiophene-2-carboxylate in 30 ml of dioxane was added 1.83 g (0.022 mol) of valeronitrile. Dry HCl was added over a period of 5 hours and the reaction mixture was then heated to 70° C. for 3 hours. The mixture was allowed to stand overnight at room temperature. The reaction mixture was diluted with 200 ml of ice water, made basic by addition of NH4OH and after standing for 30 minutes was filtered, and the filtrate concentrated in vacuo. The residue was purified by flash chromatography eluting with 50% EtOAc/hexanes after applying a suspension of the product in CH2Cl2 to the column. 1H-NMR (CDCl3): 0.96 (t, 3H, J=7.4 Hz), 1.44 (m, 2H), 1.62 (bs, 1H), 1.82 (m, 2H), 2.79 (3 line m, 2H, J=7.8 Hz), 7.33 (d, 1H, J=5.3 Hz), 7.81 (d, 1H, J=5.3 Hz).

reactant | methyl 3-amino-thiophene-2-carboxylate | 0.02 mol, 3.14 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | valeronitrile | 0.022 mol, 1.83 g | C(CCCC)#N | C5H9N
reactant | HCl | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-n-Butyl-thieno{3,2-d}pyrimidin-4(3H)-one | C(CCC)C=1NC(C2=C(N1)C=CS2)=O | C10H12N2OS
